US07491713B2
N-[(2S,6R)-1-Acetyl-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
Acetyl chloride (2.1 □L, 0.03 mmol) was added to a solution of N-[(3R,6S)-1-(cyclopropylmethyl)-7-oxo-3-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide (16.9 mg, 0.03 mmol) and triethylamine (9 □L, 0.06 mmol) in dichloromethane (0.5 mL). After 30 min, the mixture was concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane) gave the title compound (17 mg). MS 571.3 (M+1).

reactant | Acetyl chloride | 0.03 mmol | C(C)(=O)Cl | C2H3ClO
reactant | N-[(3R,6S)-1-(cyclopropylmethyl)-7-oxo-3-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 0.03 mmol, 16.9 mg | C1(CC1)CN1C[C@H](NC[C@@H](C1=O)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H36N6O3
reactant | triethylamine | 0.06 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-[(2S,6R)-1-Acetyl-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 17 mg | C(C)(=O)N1[C@H](CN(C([C@@H](C1)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)=O)CC1CC1)C1=CC=CC=C1 | C32H38N6O4
